US06110952
A solution of 3-methyl-2-nitro4-trifluoroacetamidoanisole (5.37 g, 19.3 mmol) in dry methylene chloride (250 mL) at -78° C. under nitrogen atmosphere is treated dropwise with a solution of boron tribromide (9.16 mL, 96.9 mmol) in dry methylene chloride (50 mL). After complete addition, the mixture is allowed to warm to room temperature and stirring is maintained for one hour. The mixture is cooled to -78° C. and methanol (100 mL) is added dropwise. After complete addition, the solution is allowed to warm to room temperature. The reaction mixture is distributed between water (100 mL) and methylene chloride (200 mL). The methylene chloride layer is dried over magnesium sulfate and concentrated under reduced pressure to yield 4.81 g of 3-methyl-2-nitro-4-trifluoroacetamidophenol.

reactant | 3-methyl-2-nitro4-trifluoroacetamidoanisole | 19.3 mmol, 5.37 g | CC=1C(=C(C=CC1NC(C(F)(F)F)=O)OC)[N+](=O)[O-] | C10H9F3N2O4
reactant | boron tribromide | 96.9 mmol, 9.16 mL | B(Br)(Br)Br | BBr3
reactant | methanol | 100 mL | CO | CH4O
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-2-nitro-4-trifluoroacetamidophenol | 4.81 g | CC=1C(=C(C=CC1NC(C(F)(F)F)=O)O)[N+](=O)[O-] | C9H7F3N2O4
